US06767907B2
1-(6-Aminocarbonylaminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine, hemifumarate, 7a
A solution of potassium isocyanate (1.5 g) dissolved in dichloromethane (20 ml) was cooled to 5° C. and a solution of trifluoroacetic acid (1.9 g) In dichloromethane (20 ml) was added dropwise. To the resulting mixture was added dropwise a solution of 1-(6-aminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine, 2a (3 g) in dichloromethane (10 ml). The temperature was allowed to raise to room temperature. After stirring for another 3 hours the mixture was poured on ice (500 g) and diluted aqueous NH4OH was added until pH>9. The organic phase was separated and worked-up as above. The crude title product was purified by column chromatography on silica gel (eluted with 4% triethylamine in ethanol/ethyl acetate 1:3). The purled product (2 g) was dissolved in acetone (20 ml) and added to a solution of fumaric acid (0.6 g) in ethanol (20 ml). The precipitated hemifumarate salt was filtered off and dried. Yield: 1.6 g, mp: 172-174° C. 1H NMR (DMSO-d6): δ 1.65-1.90 (m, 5H); 2.10-2.35 (m, 3H); 2.45-2.90 (m, 5H); 3.10-3.25 (m, 2H); 3.45 (qui, 1H); 6.85 (s, 2H); 6.60 (s, 1H); 7.00-7.15 (m, 4H); 7.30 (dd, 2H); 7.45 (s, 1H); 8.45 (s, 1H).

reactant | potassium isocyanate | 1.5 g | [N-]=C=O.[K+]
reactant | trifluoroacetic acid | 1.9 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(6-aminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine | NC1=CC=C2CCC(C2=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C21H25FN2
reactant | NH4OH | [NH4+].[OH-]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(6-Aminocarbonylaminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine | NC(=O)NC1=CC=C2CCC(C2=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C22H26FN3O
